US07456200B2
Sulfuryl chloride (1 ml) was added to methanesulfonic acid 5-(3-chloro-phenyl)-isoxazol-3-ylmethyl ester (200 mg, 0.70 mmol) and then stirred at 60° C. overnight. The reaction mixture was diluted with dichloromethane, washed saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated to afford methanesulfonic acid 4-chloro-5-(3-chloro-phenyl)-isoxazol-3-ylmethyl ester (219 mg, 97%, light brown solid). 1H NMR (CDCl3) d (ppm): 8.07 (m, 1H), 7.92 (m, 1H), 7.50 (m, 2H), 5.38 (s, 2H), 3.16 (s, 3H).

reactant | Sulfuryl chloride | 1 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methanesulfonic acid 5-(3-chloro-phenyl)-isoxazol-3-ylmethyl ester | 0.70 mmol, 200 mg | ClC=1C=C(C=CC1)C1=CC(=NO1)COS(=O)(=O)C | C11H10ClNO4S
solvent | dichloromethane | ClCCl | CH2Cl2
product | methanesulfonic acid 4-chloro-5-(3-chloro-phenyl)-isoxazol-3-ylmethyl ester | 219 mg, 97% | ClC=1C(=NOC1C1=CC(=CC=C1)Cl)COS(=O)(=O)C | C11H9Cl2NO4S
